US06436929B1
To a mixture of 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile (0.5 g, 1.7 mmol) and sodium acetate (0.2 g, 2.4 mmol) in acetic acid (5 mL) was added, at room temperature under nitrogen, bromine (0.12 mL, 2.34 mmol). The reaction mixture was stirred for 20 hours and then poured into ice water (30 mL). The precipitate was collected on a filter and washed with water (3×5 mL) to yield 3-(8-bromo-4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile as an off-white solid (0.48 g, 75%): mp 216-217° C.; 1H-NMR (DMSO-d6) δ9.78 (s, 1H), 8.18 (t, 1H, J=1.6 Hz), 8.02-8.08 (m, 2H), 7.81 (m, 1H), 7.75 (d, 1H, J=1.8 Hz), 1.66 (s, 6H). MS (ESI) m/z 373, 375 [M−H]−.

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile | 1.7 mmol, 0.5 g | CC1(OC(NC2=C1C=C(C=C2)C=2C=C(C#N)C=C(C2)F)=O)C | C17H13FN2O2
reactant | sodium acetate | 2.4 mmol, 0.2 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 2.34 mmol, 0.12 mL | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-(8-bromo-4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile | 0.48 g, 75% | BrC1=CC(=CC=2C(OC(NC21)=O)(C)C)C=2C=C(C#N)C=C(C2)F | C17H12BrFN2O2
